US04536571
1.7 g (10 mmol) of 6-chloroguanine and 1.2 g (10 mmol) of selenourea were put in 30 ml of absolute ethanol and boiled under reflux for 2 hours. After completion of the reaction, the resulting precipitate was separated by filtration, washed with water and dissolved in 200 ml of 2wt % aqueous sodium carbonate solution by heating. The resulting solution was acidified with acetic acid to form crystals. The crystals were separated by filtration and dried to obtain 1.5 g (7 mmol) of 6-selenoguanine.

reactant | 6-chloroguanine | 10 mmol, 1.7 g | C=1NC2=C(N1)C(=NC(=N2)N)Cl | C5H4ClN5
reactant | selenourea | 10 mmol, 1.2 g | NC(=[Se])N | CH4N2Se
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-selenoguanine | 7 mmol, 1.5 g | N1C(N)=NC=2N=CNC2C1=[Se] | C5H5N5Se
